US05167949
c) 2-(2,2,2-Trifluoroethoxy)acetamidine
Obtained using the procedure described in section b of Example 2, starting with 15.6 g (0.091 mole) of methyl 2-(2,2,2-trifluoroethoxy)acetimidate and 7.7 g (0.455 mole) of ammonia in 225 ml of absolute ethanol. Reaction time: 24 hours. Yld: 14.2 g (quantitative).

reactant | methyl 2-(2,2,2-trifluoroethoxy)acetimidate | 0.091 mole, 15.6 g | FC(COCC(OC)=N)(F)F | C5H8F3NO2
reactant | ammonia | 0.455 mole, 7.7 g | N | H3N
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | 2-(2,2,2-Trifluoroethoxy)acetamidine | FC(COCC(=N)N)(F)F | C4H7F3N2O
